US07816397B2
Methyl 4-[2-(3-nitrophenyl)vinyl]benzoate
71.2 g of 4-methoxycarbonylbenzyltriphenylphosphonium bromide and 23 g (0.15 M) of 3-nitrobenzaldehyde are added to 360 ml of acetonitrile in a 1000 ml reactor. 19 ml (0.15 M) of 1,5-diazobicyclo[4.3.0]non-5-ene (DBN) are then added and the reaction medium is then refluxed with stirring for 1 hour. The solvent is then evaporated off and the residue obtained is then purified by chromatography on silica, using dichloromethane as eluent. After evaporation, 41.6 g of a white solid are obtained (yield: 95%).

reactant | 4-methoxycarbonylbenzyltriphenylphosphonium bromide | 71.2 g | [Br-].COC(=O)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | 3-nitrobenzaldehyde | 0.15 M, 23 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 1,5-diazobicyclo[4.3.0]non-5-ene | 0.15 M, 19 ml | C1CC2=C3CCCC2(C1)[N+]3=[N-] | C9H12N2
solvent | acetonitrile | 360 ml | C(C)#N | C2H3N
product | Methyl 4-[2-(3-nitrophenyl)vinyl]benzoate | yield: 95% | [N+](=O)([O-])C=1C=C(C=CC1)C=CC1=CC=C(C(=O)OC)C=C1 | C16H13NO4
